US07256295B2
2,6-Dichloro-3-nitropyridine, 25.0 gm (0.129 mole) was dissolved in methanol (50.0 ml) at room temperature. To the solution thus obtained, 25.0% aqueous ammonia solution 12.2 ml (0.179 mole) was charged at room temperature. The resulting mixture was heated to 35°–40° C. for 2.0 hrs. The reaction was monitored by TLC. After the completion of the reaction, the mixture was cooled to 20° C. The solid obtained was washed, filtered with methanol and dried to yield 12.50 gm of 2-amino-6-methoxy-3-nitro pyridine (56.45%) with the HPLC purity of 99.3%: Melting point 192°–195° C.; 1HNMR: (DMSO D6) δ6.75–6.77 ppm (d, 1H), δ8.38–8.40 (d, 1H).

reactant | 2,6-Dichloro-3-nitropyridine | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | ammonia | 0.179 mole, 12.2 ml | N | H3N
reactant | methanol | 50.0 ml | CO | CH4O
product | 2-amino-6-methoxy-3-nitro pyridine | 12.50 gm, 56.45% | NC1=NC(=CC=C1[N+](=O)[O-])OC | C6H7N3O3
